US09403834B2
N-(tert-Butyl)-2-(difluoromethyl)-5-(8-phenyl-1-((pyridin-2-ylmethyl)amino)pyrrolo[1,2-d][1,2,4]triazin-4-yl)pyridine-3-sulfonamide (0.035 g, 0.062 mmol) was dissolved in TFA (2.00 mL, 26.0 mmol) and stirred at room temperature for 4 h. TFA was removed under reduced pressure and reaction mixture was diluted with saturated NaHCO3 (10 mL). The reaction mixture was extracted with EtOAc (3×20 mL). The combined organic extracts were dried over anhydrous Na2SO4, filtered and concentrated under reduced pressure. The resulting residue was purified by preparative HPLC (Condition B-13 described in general methods) to afford 2-(difluoromethyl)-5-(8-phenyl-1-((pyridin-2-ylmethyl)amino)pyrrolo[1,2-d][1,2,4]triazin-4-yl)pyridine-3-sulfonamide (0.004 g, 10%) as a pale yellow solid. LCMS Method B-7: retention time 1.55 min, [M+1]=508.0, Purity 99.3%. LCMS Method B-8: retention time 1.14 min, [M+1]=508.0, Purity 99.3%. 1H NMR (400 MHz, CD3OD) δ ppm: 4.77 (s, 2H), 6.96 (d, J=2.8 Hz, 1H), 7.26-7.29 (m, 1H), 7.40 (d, J=7.6 Hz, 1H), 7.51-7.66 (m, 6H), 7.70 (d, J=2.8 Hz, 1H), 7.75-7.79 (m, 1H), 8.34 (br d, J=5.2 Hz, 1H), 8.89 (dd, J=0.8 Hz, 1.2 Hz, 1H), 9.35 (d, J=2.0 Hz, 1H).

reactant | N-(tert-Butyl)-2-(difluoromethyl)-5-(8-phenyl-1-((pyridin-2-ylmethyl)amino)pyrrolo[1,2-d][1,2,4]triazin-4-yl)pyridine-3-sulfonamide | 0.062 mmol, 0.035 g | C(C)(C)(C)NS(=O)(=O)C=1C(=NC=C(C1)C1=NN=C(C=2N1C=CC2C2=CC=CC=C2)NCC2=NC=CC=C2)C(F)F | C28H27F2N7O2S
reactant | TFA | 26.0 mmol, 2.00 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 2-(difluoromethyl)-5-(8-phenyl-1-((pyridin-2-ylmethyl)amino)pyrrolo[1,2-d][1,2,4]triazin-4-yl)pyridine-3-sulfonamide | 0.004 g, 10% | FC(C1=NC=C(C=C1S(=O)(=O)N)C1=NN=C(C=2N1C=CC2C2=CC=CC=C2)NCC2=NC=CC=C2)F | C24H19F2N7O2S
